US08022222B2
Using the method of Example 3, Step A, 3-methoxyphenol (2.35 g, 18.9 mmol), 60% sodium hydride in mineral oil (0.757 g, 18.9 mmol), and 2-chloro-4-nitropyridine (3.00 g, 18.9 mmol) were reacted to provide 2-chloro-4-(3-methoxyphenoxy)pyridine (4.24 g, 95.1% yield) as a thick oil. 1H NMR (CDCl3) 6 (8.23 (d, 1H), 7.34 (t, 1H), 6.80-6.85 (m, 3H), 6.63-6.69 (m, 2H), 3.82 (s, 3H).

reactant | 3-methoxyphenol | 18.9 mmol, 2.35 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 18.9 mmol, 3.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(3-methoxyphenoxy)pyridine | 4.24 g, 95.1% yield | ClC1=NC=CC(=C1)OC1=CC(=CC=C1)OC | C12H10ClNO2
